US06828460B2
4-(2,4-Dihydroxyphenyl)cyclohexanone
A round bottomed flask equipped with magnetic stirrer was loaded 8-[2,4-bis(methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]decane (1.30 g, 3.9 mmol) and methanol (15 ml). To the resulting stirred solution was added aqueous HCl (15 ml, 1M) in one portion. After stirring for one hr at room temperature the acid was quenched by adding saturated aqueous sodium bicarbonate solution (10 ml). After stirring vigorously for 10 min, the reaction mixture was transferred to a separating funnel and the phases separated and the aqueous phase was extracted with ethyl acetate (3×20 ml). The combined organic phases were washed with brine and the solvent evaporated. To the slightly wet crude product was added methanol (30 ml) and acidic ion exchange resin (4 g). The resulting mixture was heated under reflux, with stirring, for 5 hr. Filtering through a plug of Celite, washing with ethyl acetate, followed by removal of solvent in vacuo afforded an orange oil. Purification by flash column chromatography, (SiO2, ethyl acetate/petroleum ether, 1:1, v/v) furnished the title compound as a white powder (0.54 g, 68%). m/z (ES−) 411 (2M−1); δH(CD3OD) 1.94 (2H, ddd), 2.16-2.23 (2H, m), 2.41 (2H, dt), 2.62 (1H, t), 2.63 (1H, t), 6.24 (1H, dd), 6.31 (1H, d), 6.92 (1H, d).

reactant | 8-[2,4-bis(methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]decane | 3.9 mmol, 1.30 g | COCOC1=C(C=CC(=C1)OCOC)C1CCC2(OCCO2)CC1 | C18H26O6
reactant | HCl | 1M, 15 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 4-(2,4-Dihydroxyphenyl)cyclohexanone | 0.54 g, 68% | OC1=C(C=CC(=C1)O)C1CCC(CC1)=O | C12H14O3
